US09376436B2
To a solution of 2-amino-2-methyl-propanoic acid (10 g, 96.97 mmol) in water (75 mL) was added triethylamine (13.48 mL, 96.97 mmol) followed by the dropwise addition of a solution of benzyl (2,5-dioxopyrrolidin-1-yl) carbonate (24.17 g, 96.97 mmol) in MeCN (30 mL). The pH was monitored during the addition and afterwards was adjusted with triethylamine (1.5 mL) from pH 7 to 8. The mixture was stirred at room temperature overnight. The reaction mixture was concentrated by removal of MeCN. To the aqueous was added saturated aqueous sodium bicarbonate (2 mL) which gave a suspension. This was filtered and the solid kept to one side. The filtrate was extracted with ether (three times). The aqueous phase was acidified to pH 3 with approximately 1 M aqueous potassium bisulphate and then extracted into EtOAc (three times). The combined EtOAc extracts were dried over magnesium sulphate, filtered and evaporated to yield 2-(benzyloxycarbonylamino)-2-methyl-propanoic acid (D24) as a waxy white solid, 18.001 g;

reactant | 2-amino-2-methyl-propanoic acid | 96.97 mmol, 10 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | triethylamine | 96.97 mmol, 13.48 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl (2,5-dioxopyrrolidin-1-yl) carbonate | 96.97 mmol, 24.17 g | C(OCC1=CC=CC=C1)(ON1C(CCC1=O)=O)=O | C12H11NO5
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | water | 75 mL | O | H2O
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 2-(benzyloxycarbonylamino)-2-methyl-propanoic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
